US05696254
CIS- AND TRANS-2-BENZOYL-5-ACETOXY-1,3-OXATHIOLANE
Phenyl glyoxal monohydrate (608 mg, 4.0 mmol) and 2,5-dihydroxy-1,4-dithiane (304 mg, 2.0 mmol) were heated for ca. 5 minutes at 65° C. until the reagents melted. The reaction mixture was diluted with dichloromethane (40 mL). Pyridine (1.32 mL, 16.0 mmol), 4-dimethylamino-pyridine (DMAP) (48 mg), and acetyl chloride (0.85 mL, 12.0 mmol) were added to the stirred solution at 0° C. The reaction mixture was stirred at room temperature for 4.5 hours and diluted with brine solution (15 mL). The organic layer was separated, washed with sodium bicarbonate and brine solutions, dried (sodium sulfate), and evaporated to a brown liquid (1.80 g). The residue was purified by silica gel chromatography eluting with hexanes:EtOAc (3:1) to yield the trans and cis isomers (2.4:1 ratio) (714 mg, 71%); 1H NMR (CDCl3) δ 2.0 (s, 3H), 2.14 (s, 3H), 3.15-3.25 (m, 1H), 3.35-3.45 (m, 1H), 6.42 (s, 1H), 6.51 (s, 1H), 6.7 (m, 1H), 6.9 (m, 1H), 7.4-7.5 (m, 2H), 7.55-7.65 (m, 1H), 7.9-8.0 (m, 2H).

reactant | Phenyl glyoxal monohydrate | 4.0 mmol, 608 mg | O.C1(=CC=CC=C1)C(=O)C=O
reactant | 2,5-dihydroxy-1,4-dithiane | 2.0 mmol, 304 mg | OC1SCC(SC1)O | C4H8O2S2
reactant | Pyridine | 16.0 mmol, 1.32 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 12.0 mmol, 0.85 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylamino-pyridine | 48 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | brine | 15 mL | [Cl-].[Na+].O
product | TRANS-2-BENZOYL-5-ACETOXY-1,3-OXATHIOLANE | C(C1=CC=CC=C1)(=O)[C@@H]1O[C@H](CS1)OC(C)=O | C12H12O4S
